US07939533B2
To a solution of 9.0 g (36 mmol) 2-(3,5-dichloro-phenyl)-2-methyl-propionic acid methyl ester in 40 ml ethanol 40 ml 2 N sodium hydroxide solution was added. After stirring for 4 hrs at RT 150 ml water was added and the solution washed twice with 200 ml Et2O. The aqueous phase was acidified with 25% hydrochloric acid solution and three times extracted with 150 ml CH2Cl2. The combined organic layers were dried (Na2SO4), filtered and evaporated to yield 8.3 g (97%) 2-(3,5-dichloro-phenyl)-2-methyl-propionic acid as a off-white solid.

reactant | 2-(3,5-dichloro-phenyl)-2-methyl-propionic acid methyl ester | 36 mmol, 9.0 g | COC(C(C)(C)C1=CC(=CC(=C1)Cl)Cl)=O | C11H12Cl2O2
reactant | water | 150 ml | O | H2O
solvent | ethanol | 2 N, 40 ml | C(C)O | C2H6O
product | 2-(3,5-dichloro-phenyl)-2-methyl-propionic acid | 8.3 g, 97% | ClC=1C=C(C=C(C1)Cl)C(C(=O)O)(C)C | C10H10Cl2O2
